US04772614
Iodomethane (6.9 ml) was added to a stirred suspension of 6-fluoro-4-hydroxyquinoline (16.3 g) and anhydrous potassium carbonate (15.2 g) in dry tetrahydrofuran (100 ml) at ambient temperature and stirring was continued for 18 hours. More iodomethane (1.8 ml) and anhydrous potassium carbonate (3.8 g) were added and stirring was continued for 4 hours at ambient temperature. Concentrated aqueous ammonia (specific gravity 0.88; 100 ml) was added and the mixture was evaporated to dryness. The residue was treated with water (200 ml) and extracted with dichloromethane (2×400 ml). The extract was dried and evaporated to dryness. The residue was crystallised from ethyl acetate to give the novel compound 6-fluoro-1-methyl-4-quinolone, m.p. 88°-89°.

reactant | Iodomethane | 6.9 ml | IC | CH3I
reactant | 6-fluoro-4-hydroxyquinoline | 16.3 g | FC=1C=C2C(=CC=NC2=CC1)O | C9H6FNO
reactant | potassium carbonate | 15.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 1.8 ml | IC | CH3I
reactant | potassium carbonate | 3.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonia | 100 ml | N | H3N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 6-fluoro-1-methyl-4-quinolone | FC=1C=C2C(C=CN(C2=CC1)C)=O | C10H8FNO
